data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,3174,"CC1CC([OH:1])C23CCC[N+]4(OC(=O)C(F)(F)F)CCCC24[C:2](=[O:3])CC3C1O.O=C([O-])C(F)(F)F|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,9079,"CC(=O)[O-:1].CC1(O)CC2=C(CCCC2=O)[NH+:2]1[H:3].O|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4204,"Cl[S:1](Cl)=[O:2].O=C(O)CC[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,222,"CCOC(=O)CCC(C)(OCC)[O+:1](CC)[H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7453,"C[Si](C)(C)C1CCC2C1[O:1]2.O=C(C1=CC=CC(Cl)=C1)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,3599,"CCOC(=O)CCC(=O)[O:1][H:2].N#[C-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8819,"CC(C)(C)C(=O)[O-].CCO.CC[OH+:1][C:2](C)(OCC1=CC(O[Si](C)(C)C(C)(C)C)C2(C)C(=O)OCC12C)[O:3]CC|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,381,"C1=CC=C(C[CH2:1][Br:2])C=C1.CCC(=O)N(C1=CC=CC=C1)C1(C(=O)OC)CC[NH:3]CC1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6856,"[CH2:1]=[NH2+:2].[F-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,475,"CC(=O)[O:1][Si-:2](C)(C)(C)C(C)(C)C|((2, 1), 1)"
train,pmechdb_split_0,0,7742,"Br[C:1]1([H:2])SC=C[CH+:3]1.[Br-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,9097,"C=CC(C)=O.CC[N+:1]1=[C:2]([C:3](O)(C2=CC=C(C)C=C2)[H:4])SC(CCO)=C1C.CC[N:5](CC)CC.[Br-]|(5, 4);((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,9366,"CC(C1=CC=CC=C1)[NH2+:1][H:2].CC1=CC=CC=C1.CCOC(=O)C(NC(C)C1=CC=CC=C1)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1629,"CC1([CH:1]=[CH2:2])CCCC1.[H:3][Br:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,8026,"CC(C)[C:1]1([H:2])C2=C(C=C[CH+:3]1)C(S(=O)(=O)O)=CC=C2.[F-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,7504,"C[Si](C)(C)OC12C(CCCC1O[C+:1](C)C)CC[C:2]2=[CH2:3].O=S(=O)([O-])C(F)(F)F|((2, 3), 1)"
train,pmechdb_split_0,0,1733,"C1=CC=NC=C1.CCC(=O)NC(CC1CCCCC1)(C(=O)CC)C(=O)O[C:1](CC)=[O:2].CCC(=O)[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5035,"C1=CC=C([S:1]C2CCOCC2)C=C1.CC(O)C[CH2:2][OH2+:3].CC1=CC=C(S(=O)(=O)[O-])C=C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,4909,"CC(=O)[O:1][H:2].CC(N)(CCC(=O)C1=CC=CC=C1)[OH:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7017,"C[CH:1]=[O:2].[H:3][BH3-:4]|((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,844,"CCOC(=O)C(C(C)=O)C(C(=O)OCC)[C:1](C)([NH2:2])[OH:3].CO.N|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,9300,"CCCC(N(CCC)CCC)=[O:1].CC[BH-](CC)CC.[AlH4-].[Li+:2]|(1, 2)"
train,pmechdb_split_0,0,3792,"CC(C)(C)O.CCN(CC)CC.CN(C)C1=CC=[N:1]C=C1.C[C:2](OC(=O)[CH2][K])=[O:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8218,"OC=CC[OH+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6372,"CCC=C[CH+:1]C.[Br-:2]|(2, 1)"
train,pmechdb_split_0,0,4051,"CC(=O)OCC(=O)CC[C:1](C1=CC=C(F)C=C1)([C:2]1=[N+](CC2=CC=CC=C2)C(C)=C(CCO)S1)[O-:3].CC[NH+](CC)CC.[Cl-]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,510,"CCO.CCOC(=O)C(=CC1=C(CCC2=CC(Br)=CC=C2)ON=C1C)C(C)=O.CCOC(=O)CC(C)([NH3+])[O-:1].[H:2][OH:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,5070,"Cl[P:1](Cl)Cl.[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1576,"C=CC1([O-:1])C(=O)N(CC2=CC=CC=C2)C2=C1C=CC=C2.C=C[C:2](Cl)=[O:3].[H][H].[Na+]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,5728,"COC(CC[CH2:1][I:2])OC.COCC1CCCN1[N:3]([Li-][NH+](C(C)C)C(C)C)[C:4]1=[CH:5]CCC(C)=C1|(3, 4);((4, 5), 1);((1, 2), 2)"
train,pmechdb_split_0,0,1964,"CC(=O)[O:1][H:2].CC[O:3]C(NNC(=O)C1=CC=C(F)C=C1)N1CCN(C2=C(F)C=C3C(=O)C(C(=O)O)=CN(C4CC4)C3=C2)CC1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6439,"CC(=O)[O:1][H:2].CC(C)(C)CC(=O)CC#N.CC1=CC=C(C([NH+]2CCCCC2)[OH:3])C=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6174,"C1CC[NH:1]CC1.CC(=O)O.CCC(C)C[CH:2]=[O:3].CCOC(=O)CC(C)=O|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,5620,"CCOC(N)(CC)[O+:1](CC)[H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5742,"O=S(Cl)[O:1][C:2](Cl)(CCCl)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8727,"CC(=O)[O:1][H:2].N=C1CCC2CCN(CCS(=O)C3=CC=CC=C3)C2C1C1C=CC=CC1=[NH:3].O|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,10119,"C[Si-:1](C)(C)(Br)[Cl:2]|((1, 2), 2)"
train,pmechdb_split_0,0,6866,"Br[C:1]1=[CH:2][C:3](=[O:4])CCC1.COC1=C(OC)C=C(CC[N:5]2CC2)C=C1|(5, 1);((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,4638,"C[CH+:1]C.O=S(=O)(O)C1=C[CH:2]=[CH:3]O1|((3, 2), 1)"
train,pmechdb_split_0,0,8161,"CCN[C:1](C)([NH3+:2])[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6973,"FC(F)(F)C1=CO[C:1](Br)([H:2])[CH+:3]1.[Br-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,6875,"C=C1CC(C)C(=O)CC(C(=O)OC)C1.C[O-:1].[Na+:2]|(1, 2)"
train,pmechdb_split_0,0,8795,"C1=CC=C([C:1](C2=CC=CC=C2)(C2=CC=CC=C2)[OH2+:2])C=C1|((1, 2), 2)"
train,pmechdb_split_0,0,1675,"CO[P:1](Br)Br.C[OH+:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,8065,"CCC1CC[CH:1]([H:2])[C+:3](C)C1.CC[OH:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,7266,"CC(C)=CC(C)=[O:1].CC(C)[CH2][Al:2]([CH2]C(C)C)[CH2]C(C)C|(1, 2)"
train,pmechdb_split_0,0,7189,"Br[C:1]1=[CH:2][CH:3]=[CH:4]C=C1.O=[S+:5](=O)O|((1, 2), 3);((3, 4), 5)"
